US06939871B2
7,8-Difluoro-4H-benzo[1,4]oxazine-3-one-6-carboxylic acid, (D54)
A 2M solution of aqueous sodium hydroxide (30 mL) was added to a suspension of 7,8-difluoro-6-methoxycarbonyl-4H-benzo[1,4]oxazine-3-one (4.8 g, 19.88 mmoL) in THF (100 mL). The mixture was allowed to stir for 3 hours and the total volume was then reduced in vacuo to half. It was treated with 2M hydrochloric acid to caused a solid precipitate which was filtered, washed with water three times and then dried in vacuo to give the title compound (3.6 g, 80%).

reactant | sodium hydroxide | 30 mL | [OH-].[Na+]
reactant | 7,8-difluoro-6-methoxycarbonyl-4H-benzo[1,4]oxazine-3-one | 4.8 g | FC1=C(C2=C(NC(CO2)=O)C=C1C(=O)OC)F | C10H7F2NO4
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7,8-Difluoro-4H-benzo[1,4]oxazine-3-one-6-carboxylic acid | 3.6 g, 80% | FC1=C(C2=C(NC(CO2)=O)C=C1C(=O)O)F | C9H5F2NO4
